US04746669
A mixture of 10 gm (45 mmole) of N-benzyl-2-hydroxymethylimidazole and 11 gm (92 mmole) of thionyl chloride was stirred at room temperature for 30 minutes before it was heated to reflux for 30 minutes. The excess thionyl chloride was removed under reduced pressure. The resultant residue (10 gm crude) was crystallized from ethanol/ether to obtain 8.7 gm of N-benzyl-2-chloromethylimidazole, m.p. 180°-182° C.

reactant | N-benzyl-2-hydroxymethylimidazole | 45 mmole, 10 gm | C(C1=CC=CC=C1)N1C(=NC=C1)CO | C11H12N2O
reactant | thionyl chloride | 92 mmole, 11 gm | S(=O)(Cl)Cl | Cl2OS
product | N-benzyl-2-chloromethylimidazole | 8.7 gm | C(C1=CC=CC=C1)N1C(=NC=C1)CCl | C11H11ClN2
